US09406892B2
Into a solution of 4-(9,9-dimethyl-9H-fluoren-2-yl)dibenzo[b,d]furan (11.55 g, 32.0 mmol) and THF (200 ml), a solution of sec-butyllithium 1.4 M in cyclohexane (30.9 ml, 43.3 mmol) at −78° C. was slowly added. The resulting mixture was stirred at −78° C. for 2 hours before adding 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (9.81 ml, 48.1 mmol) by syringe. The reaction solution was allowed to gradually warm to room temperature and stirred for 14 h. The reaction was quenched with methanol (MeOH) and the solvent was removed in vacuo. The residue was dissolved in DCM and washed with water and brine. The organic layer was dried over sodium sulfate, then filtered, before the solvent was evaporated. The crude product was purified by column chromatography on silica gel with a heptane/DCM/EtOAc (75/20/5 to 40/50/10, v/v/v) eluent and recrystallization from toluene yielded 2-(6-(9,9-dimethyl-9H-fluoren-2-yl)dibenzo[b,d]furan-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (13.1 g, 84%) as a white solid.

reactant | 4-(9,9-dimethyl-9H-fluoren-2-yl)dibenzo[b,d]furan | 32.0 mmol, 11.55 g | CC1(C2=CC=CC=C2C=2C=CC(=CC12)C1=CC=CC2=C1OC1=C2C=CC=C1)C | C27H20O
reactant | sec-butyllithium | 1.4 M | C(C)(CC)[Li]
reactant | cyclohexane | 43.3 mmol, 30.9 ml | C1CCCCC1 | C6H12
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 48.1 mmol, 9.81 ml | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-(6-(9,9-dimethyl-9H-fluoren-2-yl)dibenzo[b,d]furan-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 13.1 g, 84% | CC1(C2=CC=CC=C2C=2C=CC(=CC12)C1=CC=CC=2C3=C(OC21)C(=CC=C3)B3OC(C(O3)(C)C)(C)C)C | C33H31BO3
